### PR TITLE
Exercise/free monoid

### PR DESCRIPTION
**Pull request by gelisam**

### CODE REVIEW

File: FreeMonoid.agda [hunk 1]
```diff
@@ -0,0 +1,72 @@
+module FreeMonoid where
+
+open import Monoid
+open import Relation.Binary
+open import Relation.Binary.PropositionalEquality
+import Relation.Binary.SetoidReasoning as ≈-Reasoning
+
+
```
Comment (gelisam) [inline FreeMonoid.agda:8]: Did you know about this trick? When all of your definitions begin with the same parameters, you can create a submodule with those parameters and then you won't have to worry about those parameters while you're inside the module. From outside of the module, you can either provide the parameter when you open the module, or as an extra argument each time you use a function exposed by the module.

File: FreeMonoid.agda [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+      ; sym   = equiv-sym
+      ; trans = equiv-trans
+      }
+    }
+
+
+  eqClass : ExpMonoid → List A
+  eqClass = {!!}
+
+
```
Comment (gelisam) [inline FreeMonoid.agda:52]: `≈-Reasoning` and `≡-Reasoning` both expose `_≡⟨_⟩_` and `_∎`, so by opening them from within separate modules, we avoid naming conflicts.

File: FreeMonoid.agda [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+  module Sound where
```
Comment (gelisam) [inline FreeMonoid.agda:53]: Are you familiar with `≈-Reasoning`? It's the first time I use it, I found it very convenient in terms of proof readability. As you can see in the example below, it's very similar to `≡-Reasoning`, except that in addition to `_≡⟨_⟩_` you can also use `_≈⟨_⟩_` to provide a proof of equivalence, which in this case would be a value of type `EquivMonoid e₁ e₂`.

File: FreeMonoid.agda [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+    open ≈-Reasoning
+
+    sound : {e₁ e₂ : ExpMonoid}
+          → eqClass e₁ ≡ eqClass e₂
+          → EquivMonoid e₁ e₂
+    sound {e₁} {e₂} prf =
+      begin⟨ equiv-setoid ⟩
+        e₁
```
Comment (gelisam) [inline FreeMonoid.agda:61]: This proof is surprisingly convoluted! Instead of pattern-matching on `e₁` and `e₂`, I had to define an intermediate transformation and use lemmas about that transformation to complete this proof.

The fact that I had to do this is why I prefer to use my intuitive definition of free structures even though I know that the correct definition is the left-adjoint one. When I wrote the left-adjoint proof, I simply followed the types and focused on the next proof step which was in front of me. I'm glad that this technique was sufficient, because if it wasn't, I would have been stuck and I wouldn't know what else to try. With my intuitive definition, however, once I got stuck on this proof of `sound`, I could take a step back and think about why I thought that the statement was true, and then convert that informal reasoning into a proper formal proof. I can't do that if I don't have an intuitive understanding of what the statement means.

File: FreeMonoid.agda (hunk 1 above)
Comment (dimecon) [inline FreeMonoid.agda:8]: Nope! Thanks for showing me!
